US09216985B2
Synthesis of (S)-2-(1-((3H-imidazo[4,5-b]pyridin-7-yl)amino)propyl)-5-fluoro-3-(3-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one (Compound 12A)
Under nitrogen, to (S)-2-(1-aminopropyl)-5-fluoro-3-(3-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one (40 mg, 0.10 mmol, 1.0 equiv) in t-BuOH (0.5 mL) at 23° C. is added 7-chloro-3H-imidazo[4,5-b]pyridine (23 mg, 0.15 mmol, 1.5 equiv) and diisopropylethylamine (63 μL, 0.36 mmol, 4.0 equiv). After stirring for 48 hr at 120° C. in a sealed tube, the reaction mixture is concentrated in vacuo and the residue is purified by preparative TLC eluting with CH2Cl2/MeOH to afford the title compound (Compound 12A).

reactant | (S)-2-(1-aminopropyl)-5-fluoro-3-(3-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one | 0.10 mmol, 40 mg, 1.0 equiv | N[C@@H](CC)C1=NC2=CC=CC(=C2C(N1C1=CC(=CC=C1)OCC(F)(F)F)=O)F | C19H17F4N3O2
reactant | 7-chloro-3H-imidazo[4,5-b]pyridine | 0.15 mmol, 23 mg, 1.5 equiv | ClC1=C2C(=NC=C1)NC=N2 | C6H4ClN3
reactant | diisopropylethylamine | 0.36 mmol, 63 μL, 4.0 equiv | C(C)(C)N(CC)C(C)C | C8H19N
solvent | t-BuOH | 0.5 mL | CC(C)(C)O | C4H10O
product | (S)-2-(1-((3H-imidazo[4,5-b]pyridin-7-yl)amino)propyl)-5-fluoro-3-(3-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one | N1=CNC2=NC=CC(=C21)N[C@@H](CC)C2=NC1=CC=CC(=C1C(N2C2=CC(=CC=C2)OCC(F)(F)F)=O)F | C25H20F4N6O2
